US09340538B2
Step B: Isopropyl 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (2.52 g, 5 mmol) was reacted with isopropyl morpholine-3-carboxylate hydrochloride (1.05 g, 5 mmol) according to the procedure as described in Example 24 to give the title compound as a yellow solid (1.79 g, 60%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 5 mmol, 2.52 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | isopropyl morpholine-3-carboxylate hydrochloride | 5 mmol, 1.05 g | Cl.N1C(COCC1)C(=O)OC(C)C
product | Isopropyl 4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylate | 1.79 g, 60% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1C(COCC1)C(=O)OC(C)C)C(=O)OCC | C25H28BrFN4O5S
